US07935722B2
(3-Fluoro-pyridin-2-yl)-methanol
Dissolve (6-bromo-3-fluoro-pyridin-2-yl)-methanol (850 mg, 4.13 mmol) in methanol (40 mL) then purge the solution with nitrogen. Add palladium on carbon (200 mg of 5% wet) and stir the mixture under a hydrogen atmosphere (2 balloons) for 20 h. Filter the mixture through Celite® and wash the filter cake with methanol.

reactant | (6-bromo-3-fluoro-pyridin-2-yl)-methanol | 4.13 mmol, 850 mg | BrC1=CC=C(C(=N1)CO)F | C6H5BrFNO
solvent | methanol | 40 mL | CO | CH4O
product | (3-Fluoro-pyridin-2-yl)-methanol | FC=1C(=NC=CC1)CO | C6H6FNO
